US08981104B2
rac-5-{[2-(2-Methoxyphenyl)ethyl]amino}-5,6,7,8-tetrahydroquinoline-2-carbonitrile
41.10 g (0.24 mol) of 5-oxo-5,6,7,8-tetrahydroquinoline-2-carbonitrile were dissolved in 500 ml of toluene, and 35.51 ml (0.25 mol) of 2-(2-methoxyphenyl)ethylamine and 4.54 g (0.024 mol) of p-toluenesulphonic acid monohydrate were added. The reaction solution was then stirred under reflux for 5 hours (using a water separator). Subsequently, the reaction solution was evaporated to dryness and the residue was taken up in 500 ml of ethanol (anhydrous) and, with stirring, cooled to 0° C. A little at a time (careful: reaction mixture foams), 18.06 g (0.48 mol) of sodium borohydride were then added to the reaction solution, and the mixture was stirred overnight. Subsequently, the reaction mixture was concentrated on a rotary evaporator to about 100 ml, and 300 ml of water and 300 ml of ethyl acetate were added. The phases were separated and the aqueous phase was extracted twice with in each case 150 ml of ethyl acetate. The combined organic phases were washed twice with in each case 250 ml of saturated sodium chloride solution, dried over sodium sulphate, filtered and concentrated to a volume of about 150 ml on a rotary evaporator. The solution obtained in this manner was applied to 50 g of silica gel and purified by column chromatography on silica gel (80 g cartridge; flow rate: 75 ml/min; mobile phase: petroleum ether/ethyl acetate 85:15→50:50 over 45 min) This gave 39.03 g (0.10 mol, content 80%, 43% of theory) of the target compound.

reactant | 5-oxo-5,6,7,8-tetrahydroquinoline-2-carbonitrile | 0.24 mol, 41.10 g | O=C1C=2C=CC(=NC2CCC1)C#N | C10H8N2O
reactant | 2-(2-methoxyphenyl)ethylamine | 0.25 mol, 35.51 ml | COC1=C(C=CC=C1)CCN | C9H13NO
reactant | p-toluenesulphonic acid monohydrate | 0.024 mol, 4.54 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium borohydride | 0.48 mol, 18.06 g | [BH4-].[Na+]
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | rac-5-{[2-(2-Methoxyphenyl)ethyl]amino}-5,6,7,8-tetrahydroquinoline-2-carbonitrile | COC1=C(C=CC=C1)CCNC1C=2C=CC(=NC2CCC1)C#N | C19H21N3O
